US04946942
To a solution of L-phenylalanine (0.33 g, 2.0 mmol) in 0.20M potassium carbonate (20 mL) and acetonitrile (30 mL) was added dropwise a solution of N-benzyloxycarbonyl-L-alanine N-carboxyanhydride (0.45 g, 1.8 mmol) in acetonitrile (5 mL) at 0° C. The mixture was stirred 40 min at 0° C. and diluted with ethyl acetate (50 mL) and 1M hydrochloric acid (10 mL). The layers were separated and the aqueous layer extracted with ethyl acetate (2×35 mL). The combined organic fractions were washed with brine (30 mL), 0.5M hydrochloric acid (2×50 mL) and water (2×50 mL), dried (MgSO4) and concentrated. The residue was recrystallized from chloroform/hexane to give 0.26 g (39%) of N-benzyloxycarbonyl-L-alanyl-L-phenylalanine: mp 121°-122° C.; NMR (DMSO-d6) δ 12.71 (s, 1H), 8.06 (m, 1H), 7.30 (m, 5H), 5.01 (s, 2H), 4.43 (m, 1H), 4.06 (m, 1H), 2.99 (m, 2H), 11.19 (d, 2H, J=7 Hz).

reactant | L-phenylalanine | 2.0 mmol, 0.33 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | potassium carbonate | 0.20M, 20 mL | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | hydrochloric acid | 1M, 10 mL | Cl | ClH
product | N-benzyloxycarbonyl-L-alanyl-L-phenylalanine | 0.26 g, 39% | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C20H22N2O5
